US07375227B2
368C. 1-[2-(4-Hydroxy-4-p-tolyl-piperidin-1-yl)-ethyl]-3-(2-methyl-quinolin-4-yl)-urea
To a solution of 4-p-tolyl-piperidin-4-ol (0.03 mmol) in dry THF (1 mL) is added 1-(2-chloro-ethyl)-3-(2-methyl-quinolin-4-yl)-urea (0.03 mmol), solid NaHCO3 (2.5 mg), and Nal (1 mg). The flask is tightly sealed, and shaken at 70° C. for 6 days. The reaction mixture is evaporated, taken up in aqueous formic acid, and purified by preparative HPLC to provide the title compound.

reactant | 4-p-tolyl-piperidin-4-ol | 0.03 mmol | C1(=CC=C(C=C1)C1(CCNCC1)O)C | C12H17NO
reactant | 1-(2-chloro-ethyl)-3-(2-methyl-quinolin-4-yl)-urea | 0.03 mmol | ClCCNC(=O)NC1=CC(=NC2=CC=CC=C12)C | C13H14ClN3O
reactant | NaHCO3 | 2.5 mg | C(=O)(O)[O-].[Na+]
reactant | Nal | 1 mg | N[C@@H](CC1=CC=C2C=CC=CC2=C1)C(=O)O | C13H13NO2
solvent | THF | 1 mL | C1CCOC1 | C4H8O
product | 1-[2-(4-Hydroxy-4-p-tolyl-piperidin-1-yl)-ethyl]-3-(2-methyl-quinolin-4-yl)-urea | OC1(CCN(CC1)CCNC(=O)NC1=CC(=NC2=CC=CC=C12)C)C1=CC=C(C=C1)C | C25H30N4O2
